US05728699
Preparation of 4-Chloro-4'-trifluoromethylthiomethyl-benzophenone (Compound No. VI-12)
4-chloro-4'-mercaptomethylbenzophenone (4.5 g) was dissolved in tetrahydrofuran (150 ml). 60% sodium hydride (0.8 g) was added to this solution, and the mixture was stirred for 30 minutes at room temperature. Then, S-(trifluoromethyl)dibenzothiophenium-trifluoromethane sulfonate (6.4 g) was added thereto, and the mixture was further stirred for 30 minutes. The reaction mixture was concentrated, and water was added thereto. The mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with water and then dried over anhydrous magnesium sulfate. Ethyl acetate was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=4:1) to obtain the desired product (2.0 g, melting point: 63° to 65° C., yield: 35%).

reactant | 4-chloro-4'-mercaptomethylbenzophenone | 4.5 g | ClC1=CC=C(C(=O)C2=CC=C(C=C2)CS)C=C1 | C14H11ClOS
reactant | sodium hydride | 0.8 g | [H-].[Na+]
reactant | S-(trifluoromethyl)dibenzothiophenium trifluoromethane sulfonate | 6.4 g | FC([S+]1C2=C(C3=C1C=CC=C3)C=CC=C2)(F)F.FC(S(=O)(=O)[O-])(F)F
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 4-Chloro-4'-trifluoromethylthiomethyl-benzophenone | 2.0 g, yield: 35% | ClC1=CC=C(C(=O)C2=CC=C(C=C2)CSC(F)(F)F)C=C1 | C15H10ClF3OS
